US08440666B2
2-[(2-Methyl-3-oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione
2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione (255 mg, 1.00 mmol) in dimethylformamide (3 mL) was heated with potassium carbonate (145 mg, 1.05 mmol) and methyl iodide (426 mg, 3.00 mmol) at 70° C. for 2 hours. After completion of the reaction, the solvent was removed by vacuum distillation, and the resulting residue was stirred with 4 M hydrogen chloride/1,4-dioxane (10 mL) at room temperature for 2 hours. After completion of the reaction, the reaction solution was mixed with water and extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate) to give the desired product (233 mg, 86% yield).

reactant | 2-[(3-Oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione | 1.00 mmol, 255 mg | O=C1NN=CC=C1CN1C(C2=CC=CC=C2C1=O)=O | C13H9N3O3
reactant | potassium carbonate | 1.05 mmol, 145 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 3.00 mmol, 426 mg | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-[(2-Methyl-3-oxo-2,3-dihydropyridazin-4-yl)methyl]isoindoline-1,3-dione | 233 mg, 86% yield | CN1N=CC=C(C1=O)CN1C(C2=CC=CC=C2C1=O)=O | C14H11N3O3
